US04130561
N(1-Adamantyl)p-nitroaniline
A mixture of 1.51 g. (0.01 mole) of 1-adamantamine, 1.41 g. p-fluoronitrobenzene and 1.38 g. K2CO3 in 10 ml. HMPA was stirred overnight in an oil bath at 135°. The mixture was allowed to cool, diluted with H2O and extracted thoroughly with C6H6. The organic layer was washed in turn with H2O and brine and taken to dryness. The waxy residue was recrystallized twice from Me2CO:cyclohexane to give 1.82 g. (67%) of N,1-adamantyl-p-nitroaniline, m.p. 188°-189°.

reactant | 1-adamantamine | 0.01 mole | C1C2CC3CC1CC(C2)(C3)N | C10H17N
reactant | p-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | H2O | O | H2O
product | N(1-Adamantyl)p-nitroaniline | C12(CC3CC(CC(C1)C3)C2)NC2=CC=C(C=C2)[N+](=O)[O-] | C16H20N2O2
